US05576324
3,8-Dimethyl-5-(2-butenyloxy)carbostyril
3,8-Dimethyl-5-hydroxycarbostyril (3 g, 15.86 mmol) was dissolved in dimethylformamide (30 ml). To the solution, crotyl bromide (2.06 ml, 20.45 mmol) and potassium carbonate (4.4g, 31.84 mmol) were added. The mixture was stirred at 70° C. for 2 hours. After spontaneous cooling, water (90 ml) was added to the mixture. Precipitated crystals were collected by filtration. The obtained crystals were dissolved in chloroform, washed with water and saturated aqueous NaCl solution in this order, and dried. The solvent was distilled off under reduced pressure, and the residue was recrystallized from chloroform-n-hexane. As a result, 2.43 g of the title compound was obtained as colorless crystals (63%).

reactant | 3,8-Dimethyl-5-hydroxycarbostyril | 15.86 mmol, 3 g | CC=1C(NC2=C(C=CC(=C2C1)O)C)=O | C11H11NO2
reactant | crotyl bromide | 20.45 mmol, 2.06 ml | C(C=CC)Br | C4H7Br
reactant | potassium carbonate | 31.84 mmol, 4.4g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 90 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3,8-Dimethyl-5-(2-butenyloxy)carbostyril | 2.43 g | CC=1C(NC2=C(C=CC(=C2C1)OCC=CC)C)=O | C15H17NO2
